US06096743
In 15 ml of concentrated sulfuric acid, under below 0° C., 1.20 g of ethyl 2-(7-fluoro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-1-yl)acetate were added to dissolve the latter in the former. While stirring, 0.21 ml of fuming nitric acid (d=1.52) was added dropwise to the resulting solution and they were stirred at the same temperature for 30 minutes. The reaction mixture was poured into ice water. The crystals so precipitated were collected by filtration, washed with water and then, dried under reduced pressure to give 1.35 g (96%) of ethyl 2-(7-fluoro-6-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-1-yl)acetate.

reactant | ethyl 2-(7-fluoro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-1-yl)acetate | 1.20 g | FC1=CC=C2NC(C(N(C2=C1)CC(=O)OCC)=O)=O | C12H11FN2O4
reactant | nitric acid | 0.21 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
product | ethyl 2-(7-fluoro-6-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-1-yl)acetate | 1.35 g, 96% | FC1=C(C=C2NC(C(N(C2=C1)CC(=O)OCC)=O)=O)[N+](=O)[O-] | C12H10FN3O6
